US08455112B2
10. Preparation of the Inventive Triphenylene Derivatives of the Formula (IIa) According to scheme 5a
1-trifluoromethanesulfonato-2-trimethylsilylbenzene (3 equivalents) is reacted with 1 equivalent of the appropriate iodoaromatic (see scheme 5a), in the presence of 5 mol % of Pd(OAc)2, 5 mol % of dppf and 4 equivalents of CsF in toluene/acetonitrile, to obtain the desired ligands of the formulae IId), IIe) and IIf).

reactant | CsF | 4 equivalents | [F-].[Cs+]
reactant | toluene acetonitrile | C1(=CC=CC=C1)C.C(C)#N
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppf | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | Triphenylene | C1=CC=CC=2C3=CC=CC=C3C3=CC=CC=C3C12 | C18H12
